US04877787
Synthesis of 2-tert.-butyl-4-bromo-5-(4-tert.-butylbenzylthio)-3(2H)-pyridazinone (Compound No. 139)
Sodium hydroxide 0.22 g was dissolved in 5 ml of water, and thereto were added 10 ml of dichloromethane, 1.55 g of 2-tert.-butyl-4,5-dibromo-3(2H)-pyridazinone and 0.05 g of triethylbenzylammonium chloride. The resulting solution was incorporated with 0.83 g of 4-tert.-butyl-benzyl mercaptan at room temperature and then stirred for 10 hours. After completion of the reaction, about 50 ml of CH2Cl2 was added to the solution and the organic layer was separated therefrom, washed with 5% aqueous solution of sodium hydroxide and then with water, and dried over anhydrous sodium sulfate. Solvent was distilled away therefrom under reduced pressure and the resulting solid residue was recrystallized from a benzene/n-hexane mixed solvent to obtain 1.32 g of the intended compound (yield: 65%).

reactant | Sodium hydroxide | 0.22 g | [OH-].[Na+]
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | 2-tert.-butyl-4,5-dibromo-3(2H)-pyridazinone | 1.55 g | C(C)(C)(C)N1N=CC(=C(C1=O)Br)Br | C8H10Br2N2O
reactant | 4-tert.-butyl-benzyl mercaptan | 0.83 g | C(C)(C)(C)C1=CC=C(CS)C=C1 | C11H16S
reactant | CH2Cl2 | about 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 5 ml | O | H2O
catalyst | triethylbenzylammonium chloride | 0.05 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 2-tert.-butyl-4-bromo-5-(4-tert.-butylbenzylthio)-3(2H)-pyridazinone | 1.32 g, yield: 65% | C(C)(C)(C)N1N=CC(=C(C1=O)Br)SCC1=CC=C(C=C1)C(C)(C)C | C19H25BrN2OS
